US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}{[4-(DIMETHYLAMINO)-1-NAPHTHYL]METHYL}AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 4-dimethylamino-naphthalene-1-carbaldehyde according to the procedure of Example 66. MS (ESI) m/z 562.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 4-dimethylamino-naphthalene-1-carbaldehyde | CN(C1=CC=C(C2=CC=CC=C12)C=O)C | C13H13NO
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}{[4-(DIMETHYLAMINO)-1-NAPHTHYL]METHYL}AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C2=CC=CC=C12)N(C)C)C(F)(F)F | C36H30F3N3
